US09371320B2
B) 4-(4-methoxy-1-(tetrahydrofuran-3-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl)benzenesulfonamide
To a solution of 3-iodo-4-methoxy-1-(tetrahydrofuran-3-yl)-1H-pyrrolo[3,2-c]pyridine (60.0 mg) in DMF (2 mL)/water (0.20 mL) were added 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide (74.0 mg), tetrakis(triphenylphosphine)palladium(0) (20.1 mg) and potassium carbonate (48.2 mg). The reaction mixture was stirred under microwave irradiation at 130° C. for 1 hr. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (19.6 mg).

reactant | 3-iodo-4-methoxy-1-(tetrahydrofuran-3-yl)-1H-pyrrolo[3,2-c]pyridine | 60.0 mg | IC1=CN(C2=C1C(=NC=C2)OC)C2COCC2 | C12H13IN2O2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide | 74.0 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)S(=O)(=O)N)C | C12H18BNO4S
reactant | potassium carbonate | 48.2 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 20.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.20 mL | O | H2O
product | 4-(4-methoxy-1-(tetrahydrofuran-3-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl)benzenesulfonamide | 19.6 mg | COC1=NC=CC2=C1C(=CN2C2COCC2)C2=CC=C(C=C2)S(=O)(=O)N | C18H19N3O4S
